US05214168
A 300 ml glass-lined autoclave equipped with a Teflon stir shaft and blade and thermowell was charged with methanol (25 ml) and "TS-1" titanium silicalite catalyst (0.73g), followed by liquid propylene (16 mL; 0.20 mole). The autoclave was heated to 37° C. by means of an external coil attached to a circulating bath. A crude oxidant mixture (100 mL) obtained by air oxidation of alpha-methyl benzyl alcohol and containing 5.15 weight percent hydrogen peroxide was charged to an Isco pump and added to the contents of the autoclave over a 1 hour period. The reaction mixture exothermed to 45° C. and was stirred at this temperature for an additional 2 hours after addition was completed. The pressure dropped from 120 psia to ca. 42 psia during the reaction. The external heating cord was replaced with an ice bath and the liquid contents of the autoclave cooled to 20° C. The autoclave was vented and the head removed for product sampling. The reaction product was analyzed by iodometric titration (residual hydrogen peroxide) and gas chromatography (organic products). The results are shown in Table I below (Example 6). Epoxide selectivity with respect to olefin was over 99%, with no detectable amount of propylene glycol and less than 1% of 2-methoxy-1-propanol and 1-methoxy-2-propanol being produced.

reactant | TS-1 | C1CC(OC1)N2C=C(C(=O)NC2=O)F | C8H9FN2O3
reactant | propylene | 0.20 mole, 16 mL | C=CC | C3H6
reactant | methanol | 25 ml | CO | CH4O
catalyst | titanium | 0.73g | [Ti] | Ti
product | alpha-methyl benzyl alcohol | CC(C1=CC=CC=C1)O | C8H10O
